US04485112
(5-bromobenzofuran-2-yl)(phenyl)methanol
4 g of sodium borohydride dissolved in the minimum quantity of water are slowly added at ambient temperature to 8.5 g of 2-benzoyl-5-bromobenzofuran in 50 ml of dioxane. When the addition is finished, the mixture is kept stirring at ambient temperature for a further 3 hours. The solvent is removed under reduced pressure, the residue is redissolved in 50 ml of water, and extracted with ethyl ether. The ether phase is dried with anhydrous sodium sulphate, evaporated to dryness, and leaves a residue which on crystallising from cyclohexane has a M.P. of 56°-58° C.

reactant | sodium borohydride | 4 g | [BH4-].[Na+]
reactant | 2-benzoyl-5-bromobenzofuran | C(C1=CC=CC=C1)(=O)C=1OC2=C(C1)C=C(C=C2)Br | C15H9BrO2
solvent | water | O | H2O
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | (5-bromobenzofuran-2-yl)(phenyl)methanol | BrC=1C=CC2=C(C=C(O2)C(O)C2=CC=CC=C2)C1 | C15H11BrO2
